US07642264B2
N-(2-Hydroxy-1,1-dimethyl-ethyl)-3-{1-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide
A stirred mixture of 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine (Example G.11) (0.503 g, 0.7 mmol), 3-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide (Example H.4) (0.237 g, 0.77 mmol), tetrakis(triphenyl-phosphine)palladium (0.040 g, 0.030 mmol) in toluene (5 mL) was heated under reflux conditions for 18 h. Cooled to rt, some precipitate occurred, diluted with toluene (˜5 mL), added heptane, filtered the precipitate off, washed with toluene/heptane, dried in HV to give the title compound as a white solid (268 mg, 66%). MS (ISP) 585.2 [(M+H)+]; mp 150° C. (dec.).

reactant | 2-(4-tributylstannanyl-imidazol-1-yl)-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.7 mmol, 0.503 g | C(CCC)[Sn](C=1N=CN(C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)(CCCC)CCCC
reactant | 3-bromo-N-(2-hydroxy-1,1-dimethyl-ethyl)-benzenesulfonamide | 0.77 mmol, 0.237 g | BrC=1C=C(C=CC1)S(=O)(=O)NC(CO)(C)C | C10H14BrNO3S
reactant | heptane | CCCCCCC | C7H16
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | ˜5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Hydroxy-1,1-dimethyl-ethyl)-3-{1-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-1H-imidazol-4-yl}-benzenesulfonamide | 268 mg, 66% | OCC(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C=1N=CN(C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C26H22F6N4O3S
